US07452893B2
Step 7: (1S,3S)-N-[2,2-difluoro-2-(4-methylphenyl)ethyl]-N′-[2-(tetrahydro-2H-pyran-2-yl)-2H-pyrazolo[3,4-d]pyrimidin-4-yl]cyclopentane-1,3-diamine
A mixture of (1S,3S)-N-[2,2-difluoro-2-(4-methylphenyl)ethyl]cyclopentane-1,3-diamine (627 mg, 2.46 mmol), 4-chloro-2-(tetrahydro-2H-pyran-2-yl)-2H-pyrazolo[3,4-d]pyrimidine (588 mg, 2.46 mmol), n-butanol (1.6 mL) and diisopropylethylamine (1.6 mL) was heated in microwave for 15 min at 150° C. The reaction mixture was concentrated in vacuo to a viscous brown oil, which was purified by silica gel chromatography (CH2Cl2/MeOH gradient) to give the title compound (0.982 g) as a cream colored foam: MS=457.4 (M+1).

reactant | (1S,3S)-N-[2,2-difluoro-2-(4-methylphenyl)ethyl]cyclopentane-1,3-diamine | 2.46 mmol, 627 mg | FC(CN[C@@H]1C[C@H](CC1)N)(C1=CC=C(C=C1)C)F | C14H20F2N2
reactant | 4-chloro-2-(tetrahydro-2H-pyran-2-yl)-2H-pyrazolo[3,4-d]pyrimidine | 2.46 mmol, 588 mg | ClC=1C=2C(N=CN1)=NN(C2)C2OCCCC2 | C10H11ClN4O
reactant | diisopropylethylamine | 1.6 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | n-butanol | 1.6 mL | C(CCC)O | C4H10O
product | (1S,3S)-N-[2,2-difluoro-2-(4-methylphenyl)ethyl]-N′-[2-(tetrahydro-2H-pyran-2-yl)-2H-pyrazolo[3,4-d]pyrimidin-4-yl]cyclopentane-1,3-diamine | 0.982 g | FC(CN[C@@H]1C[C@H](CC1)NC=1C=2C(N=CN1)=NN(C2)C2OCCCC2)(C2=CC=C(C=C2)C)F | C24H30F2N6O
